US04837217
Preparation of 2-t-butyl-4-chloro-5-[4-(2-methoxyethoxy)-benzylthio]-3(2H)-pyridazinone (Compound No. 45)
In 30 ml of 95% ethanol were dissolved 1.5 g of 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone and 1.85 g of 4-(2-methoxyethoxy)benzyl bromide, and then 0.48 g of anhydrous sodium carbonate was added thereto. The resulting mixture was stirred overnight at room temperature, poured into water, extracted with benzene, washed with water and dried over anhydrous sodium sulfate. Benzene was distilled off under reduced pressure and the resulting solid was recrystallized from n-hexane-benzene to obtain 1.64 g of the aimed compound, m.p. 105.6°~107.3° C.

reactant | 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone | 1.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)S | C8H11ClN2OS
reactant | 4-(2-methoxyethoxy)benzyl bromide | 1.85 g | COCCOC1=CC=C(CBr)C=C1 | C10H13BrO2
reactant | sodium carbonate | 0.48 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-t-butyl-4-chloro-5-[4-(2-methoxyethoxy)-benzylthio]-3(2H)-pyridazinone | 1.64 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC1=CC=C(C=C1)OCCOC | C18H23ClN2O3S
